US07279481B2
2-(3-Nitrophenyl)-1-propanol
A solution of lithium borohydride (2M, THF, 2.0 equiv. 3.4 ml) was added to a solution of methyl 2-(3-nitrophenyl)propanoate (0.7 g) in THF. The resulting mixture was stirred for 18 hours then concentrated and poured into hydrochloric acid (10%) at 0 □C. The mixture was extracted with ether. The combined organic phases were dried over sodium sulfate, filtered and concentrated to afford the title compound as yellow oil (0.610 g, 100% yield).

reactant | lithium borohydride | 2M, 3.4 ml, 2.0 equiv | [BH4-].[Li+]
reactant | methyl 2-(3-nitrophenyl)propanoate | 0.7 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C(=O)OC)C | C10H11NO4
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-Nitrophenyl)-1-propanol | 0.610 g, 100% yield | [N+](=O)([O-])C=1C=C(C=CC1)C(CO)C | C9H11NO3
